US04276364
4-(2-Acetylhydrazino)phenyl isothiocyanate was prepared as described for NA-11 in Example 4 with 1-acetyl-2-(4-aminophenyl)hydrazine (1.23 g, 0.0075 mole) and 1,1'-thiocarbonyldiimidazole (1.35 g, 0.0075 mole). Yield 1.20 g (77 percent), m.p. 172°-174° C.

reactant | 1-[4-(2-formylhydrazino)phenyl]-3,3-dibenzylthiourea | C(=O)NNC1=CC=C(C=C1)NC(=S)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C22H22N4OS
reactant | 1-acetyl-2-(4-aminophenyl)hydrazine | 0.0075 mole, 1.23 g | C(C)(=O)NNC1=CC=C(C=C1)N | C8H11N3O
reactant | 1,1'-thiocarbonyldiimidazole | 0.0075 mole, 1.35 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
product | 4-(2-Acetylhydrazino)phenyl isothiocyanate | C(C)(=O)NNC1=CC=C(C=C1)N=C=S | C9H9N3OS
